Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Phenothiazines / Epinephrine / ppi / Nitrous Oxide / Benadryl / 
Protonix
 
Attending: ___
 
Chief Complaint:
rectocele
 
Major Surgical or Invasive Procedure:
posterior repair
 
History of Present Illness:
She is a ___ patient who presents with ___ rectocele 
after having a sacral colpopexy and supracervical hysterectomy 
in ___ for uterine prolapse and cystocele.  At that time, 
she had no rectocele at all.  She has symptoms of bulge and 
pressure in the vagina that has gotten worse over the past few 
months.
She also complains of feeling of incomplete emptying.  She 
states that after she goes to the bathroom, she could go back 
and urinate some more.  She had some frequency, urgency 
symptoms, which had resolved postoperatively.
She also has resolved diarrhea after being started on Zenpep. 
She is followed by Dr. ___ and her fecal incontinence has 
resolved as well as resolved diarrhea.
 
Past Medical History:
Past Medical History:  She is a breast cancer survivor, anxiety, 
arthritis, acid reflux, low back pain, and osteopenia.
Past Surgical History:  Modified radical mastectomy with 
reconstruction in ___, vaginal hysterectomy, BSO in ___ for 
prolapse, Dr. ___ lysis of adhesions, 
___ sacral colpopexy, cystoscopy, and TVT in ___.
Past OB History:  She has had three vaginal deliveries.

 
Social History:
___
Family History:
Family History:  Positive for heart disease.  Mitral valve 
prolapse in the mother.  Father with esophageal cancer.
 
Physical Exam:
On admission:
General:  Well developed, well groomed, thin. 
Psych:  Oriented x3, affect is normal.  
Skin:  Warm and dry. 
Heart:  No peripheral edema or varicosities.  
Lungs:  Normal respiratory effort.  
Abdomen:  Soft, nontender, not distended. No masses, guarding, 
or rebound.  No hernias.  
Genitourinary: 
Vulva:  Normal hair pattern, no lesions.  
Urethral Meatus:  No caruncle, no prolapse. Urethral meatus 
nontender, no masses or exudate.  
Bladder:  Moderately atrophic.  She is on vaginal estrogen with 
Vagifem in particular.  Caliber and resting tone are normal.  
There is a stage III rectocele. The anterior wall and apex were 
extremely well supported.  The
bladder is nonpalpable and nontender.  Cervix is absent as of 
the uterus and adnexa.  No masses in the anus or perineum.
 
Pertinent Results:
No labs during this hospitalization.
 
Brief Hospital Course:
Ms ___ underwent an uncomplicated posterior repair for stage III 
rectocele; see operative report for details. She had an 
uncomplicated recovery and was discharged home on postoperative 
day #1 in good condition: ambulating and urinating without 
difficulty, tolerating a regular diet, and with adequate pain 
control using PO medication.
 
Medications on Admission:
BETAMETHASONE DIPROPIONATE - 0.05 % Cream - apply to affected 
area(s) daily as directed
CLONAZEPAM - 0.5 mg Tablet - 1 (One) Tablet(s) by mouth three 
times a day as needed for prn
ESTRADIOL [VAGIFEM] - 10 mcg Tablet - 2 twice per week for 
maintenence
IBANDRONATE [BONIVA] - 150 mg Tablet - 1 Tablet(s) by mouth 
every month
LIPASE-PROTEASE-AMYLASE [ZENPEP] - 20,000 unit-68,000 
unit-109,000 unit Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
by mouth with meals one with snacks
SIMVASTATIN - 40 mg Tablet - 1 Tablet(s) by mouth once a day
SUCRALFATE - 1 gram Tablet - 1 Tablet(s) by mouth up to four 
times per day
SUMATRIPTAN SUCCINATE - 100 mg Tablet - 1 Tablet(s) by mouth 
first sign of headahce can repeat in two hours if needed
ASPIRIN -  (Prescribed by Other Provider) - 81 mg Tablet, 
Chewable - 1 (One) Tablet(s) by mouth once a day
CALCIUM CARBONATE-VITAMIN D3 [CALTRATE-600 PLUS VITAMIN D3]
GLUCOSAMINE ___ 2KCL-CHONDROIT [GLUCOSAMINE SULF-CHONDROITIN] 
MICONAZOLE NITRATE -  (BID TO AFFECTED AREA) MULTI VIT W 
MN-FA-LYCO-LUT-ALA
 
Discharge Medications:
1. Clonazepam 0.5 mg PO TID:PRN anxiety 
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth q8 hours Disp #*30 
Tablet Refills:*2
3. Sucralfate 1 gm PO TID 
4. Zenpep *NF* (lipase-protease-amylase) 20,000-68,000 -109,000 
unit Oral with meals Reason for Ordering: Wish to maintain 
preadmission medication while hospitalized, as there is no 
acceptable substitute drug product available on formulary.
2 tab with meals 
5. Simvastatin 40 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
rectocele
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.  
* You may eat a regular diet  
 
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___